US07129252B2
A mixture of [(4-nitrophenyl)cyclobutyl]methane-1-ol (500 mg) was mixed with Pd—C (10%, 80 mg) in EtOH (100 ml) and hydrogenated under H2 atmosphere for 1 hour. The reaction was filtered through Celite and evaporated to give [(4-aminophenyl)cyclobutyl]methane-1-ol.

reactant | [(4-nitrophenyl)cyclobutyl]methane-1-ol | 500 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCC1)CO | C11H13NO3
solvent | EtOH | 100 ml | CCO | C2H6O
catalyst | Pd—C | 80 mg | [Pd] | Pd
product | [(4-aminophenyl)cyclobutyl]methane-1-ol | NC1=CC=C(C=C1)C1(CCC1)CO | C11H15NO
